US06326386B1
3-[(3-Chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid methyl ester
To a stirred solution of 3-chloro-5-methoxy-benzoic acid (0.932 g), TBTU (3.21 g) and in DMF (10 ml) was added DIPEA (1.73 ml) followed by 3-isopropylamino propionic acid methyl ester (0.871 g) after 10 min. The reaction mixture was stirred at room temperature for 48 h and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic phase was washed with further water and 2M aqueous sodium hydroxide, water and dried with brine and over sodium sulphate and concentrated under reduced pressure to give the title compound as a brown oil (1.6 g).

reactant | 3-chloro-5-methoxy-benzoic acid | 0.932 g | ClC=1C=C(C(=O)O)C=C(C1)OC | C8H7ClO3
reactant | TBTU | 3.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.73 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-isopropylamino propionic acid methyl ester | 0.871 g | COC(CCNC(C)C)=O | C7H15NO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[(3-Chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid methyl ester | 1.6 g | COC(CCN(C(C)C)C(C1=CC(=CC(=C1)OC)Cl)=O)=O | C15H20ClNO4
